US06589977B1
Potassium carbonate (130 mg, 0.94 mmol) and methyl iodide (0.06 mL, 0.94 mmol) were added under ice cooling to 2-bromo-3-(5-methyl-1H-indol-3-yl)-N-methylmaleimide (100 mg, 0.31 mmol) dissolved in DMF (5 mL), and the whole was stirred for 1.5 hours. The reaction mixture was warmed to room temperature, added with saturated aqueous sodium chloride solution, and extracted with ethyl acetate. The extract was dried over sodium sulfate, and then concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=1:2) to obtain 2-bromo-3-(1,5-dimethyl-1H-indol-3-yl)-N-methylmaleimide (100 mg, 95.8%) as red solids.

reactant | Potassium carbonate | 0.94 mmol, 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.94 mmol, 0.06 mL | CI | CH3I
reactant | 2-bromo-3-(5-methyl-1H-indol-3-yl)-N-methylmaleimide | 0.31 mmol, 100 mg | BrC=1C(=O)N(C(C1C1=CNC2=CC=C(C=C12)C)=O)C | C14H11BrN2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-bromo-3-(1,5-dimethyl-1H-indol-3-yl)-N-methylmaleimide | 100 mg, 95.8% | BrC=1C(=O)N(C(C1C1=CN(C2=CC=C(C=C12)C)C)=O)C | C15H13BrN2O2
